US07524845B2
3-Methyl-pyrazolo[3,4-b]pyridine (1 mmol, 1 eq.) was suspended into a mixture of 1:1 fuming nitric acid and concentrated sulfuric acid (1 mL:1 mL), and the resultant mixture was heated at 90° C. for 30 minutes. The reaction mixture was then cooled to rt, and poured into a mixture of sodium bicarbonate and ice. The resultant solution was warmed up to rt and extracted with 300 mL of EtOAc. The organic extract was separated, washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by silica gel chromatography to provide 70.2 mg of 3-methyl-5-nitro-pyrazolo[3,4-b]pyridine.

reactant | 3-Methyl-pyrazolo[3,4-b]pyridine | 1 mmol, 1 eq. | CC1=NNC2=NC=CC=C21 | C7H7N3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-methyl-5-nitro-pyrazolo[3,4-b]pyridine | 70.2 mg | CC1=NNC2=NC=C(C=C21)[N+](=O)[O-] | C7H6N4O2
